US04958041
Diisopropyldimethoxysilane
Under an inert gas, 24.2 g magnesium chips (1.0 mol) were combined with about 20 ml methyl-tert-butylether, an iodine crystal and 3.1 g 2-chloropropane (0.04 mol). To start the reaction a solution of 61.9 g tetramethoxysilane (0.41 mol) and 75.4 g 2-chloropropane (0.96 mol) in 140 ml methyl-tert-butylether was added dropwise, with stirring, to the first mixture at a rate to maintain a moderate reflux. After addition of the solution, the reaction was allowed to reflux for six more hours. After cooling the reaction mixture, 6.0 g methanol (0.19 mol) was added, the mixture was stirred for a few minutes and then the resulting precipitate was removed by filtration. After washing the filter cake with several portions of methyl-tert-butylether, the solvent was distilled from the combined filtrates. The remaining residue consisted of 70.5 g diisopropyldimethoxysilane (98% of the theoretical yield) which had a purity of 98% according to GC. Triisopropylmethoxysilane was not detected by GC.

reactant | magnesium | 24.2 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-chloropropane | 0.04 mol, 3.1 g | ClC(C)C | C3H7Cl
reactant | tetramethoxysilane | 0.41 mol, 61.9 g | CO[Si](OC)(OC)OC | C4H12O4Si
reactant | 2-chloropropane | 0.96 mol, 75.4 g | ClC(C)C | C3H7Cl
reactant | methanol | 0.19 mol, 6.0 g | CO | CH4O
reactant | Triisopropylmethoxysilane | C(C)(C)[Si](OC)(C(C)C)C(C)C | C10H24OSi
solvent | methyl-tert-butylether | 140 ml | COC(C)(C)C | C5H12O
solvent | methyl-tert-butylether | about 20 ml | COC(C)(C)C | C5H12O
product | Diisopropyldimethoxysilane | C(C)(C)[Si](OC)(OC)C(C)C | C8H20O2Si
